US07211672B2
(2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionic acid was prepared from (2S,4R)-N-(4-bromo-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide. (2S,4R)-N-(4-Bromo-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide was converted to the acrylic acid using the same procedure described in the synthesis of (±)-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid. The reduction and saponification were carried out as in the procedure describing the preparation of (2S,4R)-3-(4-{4-[acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-propionic acid.

reactant | (2S,4R)-N-(4-bromo-phenyl)-N-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | BrC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C26H25BrN2O3
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | (±)-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid | ClC1=CC=C(C=C1)N(C1CC(N(C2=CC=C(C=C12)C=CC(=O)O)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C29H26ClFN2O4
reactant | (2S,4R)-3-(4-{4-[acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-propionic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCC(=O)O)C)C1=CC=C(C=C1)Cl | C28H27ClN2O4
product | (2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionic acid | C(C)(=O)N(C1=CC=C(C=C1)CCC(=O)O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C29H30N2O5
